US07569536B2
Concentrated hydrochloric acid (1.36 ml, 16.3 mmol) and anhydrous tin dichloride (1.55 g, 8.16 mmol) were sequentially added at 0° C. to a methanol (4 ml) solution of 1-[2-nitro-4-(trifluoromethyl)phenyl]pyrrolidine (606 mg, 2.33 mmol), obtained as described in Referential Example 3-1. The resulting mixture was stirred for four hours. A saturated solution of sodium hydrogen carbonate was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50 g, hexane/ethyl acetate=15/1). Thus, 1-[2-amino-4-(trifluoromethyl)phenyl]pyrrolidine (550 mg, quant.) was yielded as a red-orange colored oily material.

reactant | hydrochloric acid | 16.3 mmol, 1.36 ml | Cl | ClH
reactant | tin dichloride | 8.16 mmol, 1.55 g | [Sn](Cl)Cl
reactant | 1-[2-nitro-4-(trifluoromethyl)phenyl]pyrrolidine | 2.33 mmol, 606 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCCC1 | C11H11F3N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 1-[2-amino-4-(trifluoromethyl)phenyl]pyrrolidine | 550 mg | NC1=C(C=CC(=C1)C(F)(F)F)N1CCCC1 | C11H13F3N2
